US04545802
1-Acetyl-5-methyl-2-pyrazoline
To a stirred solution of 6.5 g (0.0773 mole) of 5-methyl-2-pyrazoline and 8.08 g (0.08 mole) of triethylamine in 350 mls of ether was added in a rapid dropwise manner, a solution of 6.06 g (0.0773 mole) of acetylchloride in 100 mls of ether. After the addition was complete, the mixture was stirred at room temperature for 30 minutes then 50 mls of water was added. This mixture was stirred for 10 minutes. Sufficient sodium chloride was added to saturate the water present and the aqueous and ether phases were allowed to separate. The ether phase was removed and dried. The ether was evaporated off to yield 7 g of the crude product. This material was distilled at 68°-70° C. at 2 millimeters of mercury to give 4.5 g of the desired product as a colorless liquid. Upon analysis, the product was found to have carbon, hydrogen and nitrogen contents of 56.76, 7.79 and 22.26 percent, respectively, as compared with the theoretical contents of 57.12, 7.99 and 22.21 percent, respectively, calculated for the above-named compound.

reactant | 5-methyl-2-pyrazoline | 0.0773 mole, 6.5 g | CC1CC=NN1 | C4H8N2
reactant | triethylamine | 0.08 mole, 8.08 g | C(C)N(CC)CC | C6H15N
reactant | acetylchloride | 0.0773 mole, 6.06 g | C(C)(=O)Cl | C2H3ClO
reactant | sodium chloride | [Cl-].[Na+]
solvent | ether | 350 mls | CCOCC | C4H10O
solvent | ether | 100 mls | CCOCC | C4H10O
solvent | water | 50 mls | O | H2O
product | 1-Acetyl-5-methyl-2-pyrazoline | 4.5 g | C(C)(=O)N1N=CCC1C | C6H10N2O
